2182-01-23 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - agitated, confused for most of the night, calmed minimally with IV
   Ativan x 1 @ 2AM
   - 5AM agitated again, both endorsing and denying chest pain, refusing
   all PO meds, EKG & unable to place leads secondary to agitation, vitals
   signs were stable & telemetry was unchanged, received 2mg IV Morphine &
   1mg IV Ativan with some improvement in agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2182-1-22**] 04:56 PM
   Furosemide (Lasix) - [**2182-1-22**] 05:10 PM
   Ranitidine (Prophylaxis) - [**2182-1-22**] 09:00 PM
   Lorazepam (Ativan) - [**2182-1-23**] 05:00 AM
   Morphine Sulfate - [**2182-1-23**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 95 (78 - 116) bpm
   BP: 100/66(73) {100/49(59) - 161/86(95)} mmHg
   RR: 33 (23 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 104.6 kg
   Height: 72 Inch
             Total In:
                                                                    736 mL
                                                                    249 mL
   PO:
                                                                    540 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    196 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                      0 mL
   Urine:
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,164 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Agitated,
   trying to get out of bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Warm, venous stasis changes on LLE
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   187 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   104 mEq/L
   146 mEq/L
   33.8 %
        [image002.jpg]
                             [**2182-1-22**]  05:33 PM
   Hct
   33.8
   Cr
   1.1
   Glucose
   187
   Other labs: PT / PTT / INR:14.3/49.9/1.2, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Currently, patient has a new
   stent in the SVG-OM1 that is partially expanded. He is awaiting
   catheterization on [**1-24**] for evaluation and treatment of the LIMA
   occlusion. Currently, he is chest pain free, with negative CE
s, but
   refusing EKG.
   - ASA 325mg daily
   - Atorvastatin 80mg daily
   - Plavix 75mg daily
   - Increase Metoprolol Tartrate to 10mg IV q6H or 37.5mg TID when
   tolerating PO
   - Heparin gtt
   - No Integrillin given current Troponin
   - Morphine PRN: chest pain
   - Will continue to try and obtain EKG
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**]. Patient with persistent fluid overload
   on admission, but he was not pre-hydrated in anticipation of cardiac
   catheterization. On transfer, patient demonstrates mild respiratory
   distress and O2 requirement, limited clinical exam suggests fluid
   overload. Received IV Lasix on transfer with good UOP, but remains
   fluid overloaded this AM.
   - TTE today
   - Repeat Lasix 40mg IV x 1 this AM, as patient is incontinent will
   gauge fluid status by exam
   - PM electrolytes & replete PRN
   - O2 by NC
   - Increase Metoprolol Tartrate 10mg IV q6H or 37.5mg TID when
   tolerating PO
   - Increase Lisinopril 5mg daily
   # Agitation/Mental status changes: Patient's cardiac catheterization
   aborted [**1-29**] agitation that was refractory to significant doses of
   Haldol. Per patient's wife and [**Name (NI) 755**] Hospital records, patient has
   been confused and agitated since his hospitalization at [**Location (un) 755**]. He
   pulled out his Foley prior to transfer to the [**Hospital1 19**] and his wife
   reports that he was paranoid at [**Location (un) 755**], insisting that the FBI was out
   to get him. At home, however, his wife states that he is not confused,
   but does exhibit short-term memory impairments. As patient has been
   attempting to get out of bed, pulling at lines, and is not fully
   oriented despite repeated verbal reorientation, his primary process
   appears to be agitation with some minor component of dementia/delirium.
   Patient also takes Ativan PO PRN at home, so he may have some component
   of benzodiazepine withdrawal.
   - Psych consult, recommending Ativan 0.5 to 1mg IV q4H:PRN agitation,
   f/u additional recs
   - F/U folate, b12, TSH level this AM
   - CXR, U/A to rule out typical infectious causes
   - Will try to avoid Haldol/Zyprexa as it will further prolong QT
   interval
   - 4 bed rail restraint
   - Frequent reorientation
   - Minimize lines & tubes
   - Preserve sleep wake cycles
   - OOB for meals
   #. Rhythm: Patient in and out of AF in the CCU, but no report of h/o of
   AF. He has also been persistently tachycardic, despite having a regular
   rhythm on admission. This may be agitation paired with diuresis, but
   will continue to monitor closely.
   - On telemetry
   - Metoprolol Tartrate 10mg IV q6H or 37.5mg PO TID when tolerating PO
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   - Gabapentin 600mg PO qHS
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal.
   - IV Ativan 0.5mg-1mg q4H:PRN
   - SW consult
   #. HLD: Continue Atorvastatin 80mg daily.
   #. HTN:
   -Continue Lisinopril 5mg daily
   -Continue Metoprolol Tartrate 10mg IV q6H or 37.5mg PO TID if
   tolerating PO
   #. GERD:
   - Ranitidine 150mg PO BID
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   #. Hx of TIA: Short-term left hand and leg weakness, now resolved. No
   focal neurologic deficits on admission.
   #. FEN: Cardiac/diabetic, MVI
   #. Access: Patient transferred with right subclavian line in place.
   Unable to pull line secondary to patient agitation, but will attempt to
   place PIV
s and will discontinue the subclavian line when PIV
s placed
   ICU Care
   Nutrition: cardiac/diabetic diet
   Glycemic Control:  NPH & Humalog sliding scale
   Lines:
   Multi Lumen - [**2182-1-22**] 03:15 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Ranitidine 150mg PO BID
   VAP:
   Comments:
   Communication:  Patient
s wife [**Name (NI) 653**] [**Name (NI) 2064**] [**Telephone/Fax (1) 12871**]
   Code status: Full code
   Disposition: pending cardiac catheterization on [**1-24**]

2182-01-24 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2182-1-23**] 08:45 AM
 TRANSTHORACIC ECHO - At [**2182-1-23**] 09:00 AM
 INVASIVE VENTILATION - START [**2182-1-24**] 01:51 AM
   [**1-23**]
   - TTE 30-35EF with global hypokinesis
   - combative, agitated. Using haldol for restraint with some effect. UA
   with soft signs of UTI. Received Ceftriaxone
   - RR 30-40 with Sp02 of 95 on 4L. Attempted Abg, called RT. Gave
   patient Morphine 2mg x 2. ABG with Primary resp acidosis and metabolic
   alkalosis. (still unclear) Intubated.
   - could not place A-Line
   - low pressure (to 40 systolic), started on levophed
   - called his wife to explain situation. she is coming in tomorrow
   morning
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2182-1-23**] 04:59 PM
   Vancomycin - [**2182-1-23**] 11:16 PM
   Cefipime - [**2182-1-24**] 01:10 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2182-1-23**] 01:15 PM
   Haloperidol (Haldol) - [**2182-1-23**] 06:05 PM
   Furosemide (Lasix) - [**2182-1-23**] 07:15 PM
   Lorazepam (Ativan) - [**2182-1-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100.1
   HR: 80 (79 - 118) bpm
   BP: 116/61(74) {61/38(43) - 164/134(138)} mmHg
   RR: 20 (16 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 104.6 kg
   Height: 72 Inch
             Total In:
                                                                  1,106 mL
                                                                    986 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    836 mL
                                                                    986 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    100 mL
   Urine:
                                                                  1,330 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                    886 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 27 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/46/128/30/7
   Ve: 10.3 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), in all
   fields, a [**2-2**] diamond shaped systolic murmur
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), diminished globally
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: rigid left arm with passive motion
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   227 K/uL
   9.7 g/dL
   197 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   103 mEq/L
   146 mEq/L
   30.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2182-1-22**]  05:33 PM
                             [**2182-1-23**]  06:37 AM
                             [**2182-1-23**]  05:16 PM
                             [**2182-1-24**]  12:43 AM
                             [**2182-1-24**]  03:27 AM
                             [**2182-1-24**]  04:09 AM
   WBC
   7.1
   9.6
   Hct
   33.8
   31.8
   32.4
   30.0
   Plt
   257
   227
   Cr
   1.1
   1.2
   1.2
   1.3
   TropT
   0.12
   0.11
   TCO2
   35
   33
   Glucose
   187
   157
   176
   197
   Other labs: PT / PTT / INR:16.3/59.8/1.4, CK / CKMB /
   Troponin-T:113/3/0.11, Lactic Acid:2.7 mmol/L, Ca++:8.8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: UA WBC [**6-6**] with rare bacteria and > 50
   RBC
   Imaging: TTE [**1-23**]
   The left atrium is moderately dilated. The right atrium is moderately
   dilated. Left ventricular wall thicknesses are normal. The left
   ventricular cavity is mildly dilated. There is moderate global left
   ventricular hypokinesis (LVEF = 30-35 %). The aortic valve leaflets are
   moderately thickened. There is mild aortic valve stenosis (valve area
   1.2-1.9cm2). No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. Moderate (2+) mitral regurgitation is seen. The
   pulmonary artery systolic pressure could not be determined. There is an
   anterior space which most likely represents a fat pad.
   IMPRESSION: Suboptimal image quality. Left ventricular cavity
   enlargement with moderate global hypokinesis. Mild aortic valve
   stenosis. Moderate mitral regurgitation.
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   # Respiratory Distress with Complex Metabolic Disturbance: Patient
   became tachypneic to 40's with pC02 of 59 and HCO of 35 (pH 7.37),
   became progressively somnolent. Was intubated. Unclear what the cause
   of his disorders are: he is retaining CO2, likely because he is so
   tachypneic as to only ventillate his deadspace, he could also have a
   PNA that affects his gas exchange. he is hyperbicarbic because he was
   aggressively diuresed. The intubation will also facilitate a workup of
   his other severe medical problems - AMS, CAB and possible PNA
   - fent/versed sedation
   - abgs for now as ALine could not be placed
   - VAP bundle
   - may need to involve renal for help with understanding metabolic
   disorder
   .
   # Agitation/Mental status changes: Patient's cardiac catheterization
   aborted [**1-29**] agitation that was refractory to significant doses of
   Haldol. Per patient's wife and [**Name (NI) 755**] Hospital records, patient has
   been confused and agitated since his hospitalization at [**Location (un) 755**]. He
   pulled out his Foley prior to transfer to the [**Hospital1 19**] and his wife
   reports that he was paranoid at [**Location (un) 755**], insisting that the FBI was out
   to get him. At home, however, his wife states that he is not confused,
   but does exhibit short-term memory impairments. As patient has been
   attempting to get out of bed, pulling at lines, and is not fully
   oriented despite repeated verbal reorientation, his primary process
   appears to be agitation with some minor component of dementia/delirium.
   Patient also takes Ativan PO PRN at home, so he may have some component
   of benzodiazepine withdrawal. Psych evaluated and agreed with haldol
   for restraints. Normal folate/b12/tsh. As of [**1-24**], infectious etiology
   still likely with suggestive UA and CXR
   - Psych consult, following
   - haldol for chemical restraints after off sedation
   - 4 bed rail restraint
   - Frequent reorientation
   - Minimize lines & tubes as possible
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Currently, patient has a new
   stent in the SVG-OM1 that is partially expanded. He was awaiting
   catheterization on [**1-24**] for evaluation and treatment of the LIMA
   occlusion. He was chest pain free without EKG changes as of [**1-24**].
   - ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - Increase Metoprolol Tartrate to 10mg IV q6H or 37.5mg TID when
   tolerating PO
   - Heparin gtt
   - No Integrillin given current Troponin
   - Morphine PRN: chest pain
   - may be able to go for cath while intubated/sedated
    .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis
   - O2 by NC
   -Metoprolol Tartrate 10mg IV q6H or 37.5mg TID when tolerating PO
   -Lisinopril 5mg daily
   .
   #. Rhythm: Patient in and out of AF in the CCU, but no report of h/o of
   AF. He has also been persistently tachycardic, despite having a regular
   rhythm on admission. This may be agitation paired with diuresis, but
   will continue to monitor closely.
   - On telemetry
   - Metoprolol Tartrate 10mg IV q6H or 37.5mg PO TID when tolerating PO
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   - Gabapentin 600mg PO qHS
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal.
   - IV Ativan 0.5mg-1mg q4H:PRN
   - SW consult
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
   #. HTN:
   -Continue Lisinopril 5mg daily
   -Continue Metoprolol Tartrate 10mg IV q6H or 37.5mg PO TID if
   tolerating PO
   .
    #. GERD:
   - Ranitidine 150mg PO BID
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   .
   #. Hx of TIA: Short-term left hand and leg weakness, now resolved.
   Possibly rigid on left arm
   #. FEN: Cardiac/diabetic, MVI
   #. Access: Patient transferred with right subclavian line in place.
   Unable to pull line secondary to patient agitation, but will attempt to
   place PIV
s and will discontinue the subclavian line when PIV
s placed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-1-22**] 03:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-01-25 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT head: Age-indeterminate infarct in the anterior limb of the right
   internal capsule.  radiologist recommends MRI.  Need to page neuro
   resident [**First Name4 (NamePattern1) 2295**] [**Last Name (NamePattern1) 11057**] pager [**Numeric Identifier **].  She is aware of the new
   consult.
   - CT chest: 1. Left lower lobe pneumonia. 2. Mild interstitial
   pulmonary edema. 3. Large right and small left pleural effusions.
   - Dr. [**Last Name (STitle) 161**] recs: change ranitidine to PPI (lansoprazole), d/c
   gabapentin, aggressive diuresis, cath tomorrow
   - A-line placed, central line re-sited
   - adjusted vent settings (decreased RR to 16, increased PEEP to 8). ABG
   looked much better.
   - vanc & cefepime added last night for PNA.  If [**Last Name (LF) 1445**], [**First Name3 (LF) **] add cipro
   for double pseudomonal coverage.
   - sent blood cx's, ordered sputum cx as well
   - Heparin gtt d/c'd after discussion with Dr. [**Last Name (STitle) 161**], switched to SC
   Heparin for ppx
   - Lasix 40 IV x 1 at noon
   - psych recs: no recs
   - TF started, nutrition c/s placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2182-1-23**] 04:59 PM
   Cefipime - [**2182-1-24**] 05:39 PM
   Vancomycin - [**2182-1-24**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2182-1-24**] 12:39 PM
   Fentanyl - [**2182-1-24**] 09:00 PM
   Midazolam (Versed) - [**2182-1-24**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2182-1-24**] 09:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-25**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 86 (76 - 124) bpm
   BP: 88/42(58) {88/42(58) - 162/77(107)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 104.6 kg
   Height: 72 Inch
    CVP: 13 (0 - 13)mmHg
   Total In:
                                                                  2,539 mL
                                                                    429 mL
   PO:
   TF:
   IVF:
                                                                  2,539 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    115 mL
   Urine:
                                                                  1,375 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,164 mL
                                                                    314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 57.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/45/145//3
   Ve: 7.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), in all
   fields, a [**2-2**] diamond shaped systolic murmur
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), diminished globally
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: rigid left arm with passive motion
   Neurologic: responsive to voice, but generally comfortably sedated
   Labs / Radiology
   247 K/uL
   9.6 g/dL
   197 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   103 mEq/L
   146 mEq/L
   30.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2182-1-23**]  05:16 PM
                             [**2182-1-24**]  12:43 AM
                             [**2182-1-24**]  03:27 AM
                             [**2182-1-24**]  04:09 AM
                             [**2182-1-24**]  10:00 AM
                             [**2182-1-24**]  02:37 PM
                             [**2182-1-25**]  01:34 AM
                             [**2182-1-25**]  03:27 AM
                             [**2182-1-25**]  06:30 AM
                             [**2182-1-25**]  07:01 AM
   WBC
   9.6
   8.0
   Hct
   32.4
   30.0
   30.0
   Plt
   227
   247
   Cr
   1.2
   1.3
   TropT
   0.11
   TCO2
   35
   33
   27
   31
   36
   34
   30
   Glucose
   176
   197
   Other labs: PT / PTT / INR:16.3/59.8/1.4, CK / CKMB /
   Troponin-T:113/3/0.11, Lactic Acid:2.7 mmol/L, Ca++:8.8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   CT chest [**2182-1-24**]: Bilateral non-hemorrhagic layering pleural effusions,
   larger on the right side are associated with adjacent lung atelectasis.
   Assymetry between the consolidation in the left lower lobe and the
   pleural effusions suggest the presence of atelectasis and pneumonia.
   Mild smooth interlobular septal thickening associated with ground glass
   opacities in the upper lobe is consistent with mild interstitial
   pulmonary edema. There are few scattered calcified granulomas.
   CT head [**2182-1-24**]: 5mm age-indeterminate infarct in the anterior limb of
   the right internal capsule. Recommend MR for further characterization.
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   # Respiratory Distress with Complex Metabolic Disturbance: Patient
   intubated on [**1-23**] in context of worsening respiratory status and
   low-grade fever. CT chest demonstrated left lower lobe pneumonia and
   bilateral pleural effusions. Started on Vancomycin & Cefepime
   empirically. Urine culture from [**2182-1-23**] negative. ABG
s improved this
   AM.
   - F/u Sputum culture & blood cultures from [**2182-1-24**]
   - IV Vancomycin, day 3
   - Cefepime, day 3
   - Frequent ABG
   - Will hold off on weaning vent until patient returns from
   catheterization
   .
   # Agitation/Mental status changes: Patient's cardiac catheterization
   aborted [**1-29**] agitation that was refractory to significant doses of
   Haldol. Per patient's wife and [**Name (NI) 755**] Hospital records, patient has
   been confused and agitated since his hospitalization at [**Location (un) 755**]. At
   home, however, his wife states that he is not confused, but does
   exhibit short-term memory impairments. As patient has been attempting
   to get out of bed, pulling at lines, and is not fully oriented despite
   repeated verbal reorientation, his primary process appears to be
   agitation with some minor component of dementia/delirium. Patient also
   takes Ativan PO PRN at home, so he may have some component of
   benzodiazepine withdrawal. Normal metabolic work-up as an inpatient. CT
   head on [**1-24**] demonstrated a small lacunar infarct of indeterminate age,
   so neurology was consulted.  Infection and CVA may be complicating
   already complex delirium and dementia picture.
   - F/U Neurology recs
   - F/U Psych recs
   - Haldol for chemical restraints once extubated
   - 4 bed rail restraint
   - Frequent reorientation
   - Minimize lines & tubes as possible
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Currently, patient has a new
   stent in the SVG-OM1 that is partially expanded. He was awaiting
   catheterization on [**1-24**] for evaluation and treatment of the LIMA
   occlusion. He was chest pain free without EKG changes as of [**1-24**].
   - Cath today
   - ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - Metoprolol Tartrate  37.5mg TID when bp
s tolerate
   - [**Month (only) 51**] be able to go for cath while intubated/sedated, will discuss with
   attending
    .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis
   - Metoprolol Tartrate 37.5mg TID when bp
s tolerate
   - Lisinopril PO 5mg daily when tolerating PO
   .
   #. Rhythm: Patient in normal sinus rhythm. Prior report of AF was
   likely telemetry static.
   - On telemetry
   - Metoprolol Tartrate 37.5mg PO TID when bp
s tolerate
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Home
   Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal.
   - IV Ativan 0.5mg-1mg q4H:PRN when extubated
   - SW consult
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
   #. HTN:  Currently hypotensive, requiring pressors.
   -Continue Lisinopril 5mg PO daily when bp
s tolerate
   -Continue Metoprolol Tartrate 37.5mg PO TID when bp
s tolerate
   .
    #. GERD:
   - Lansoprazole 30mg daily
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   .
   #. Hx of TIA: Short-term left hand and leg weakness, now resolved.
   Possibly rigid on left arm
   ICU Care
   Nutrition: NPO for possible procedure
   Glycemic Control:  NPH & Sliding scale
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   20 Gauge - [**2182-1-24**] 04:00 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Lansoprazole
   VAP:
   Communication:
   Code status: Full code
   Disposition: pending extubation, further work-up

2182-01-26 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-25**]
   - Went to Cath: Promus LIMA to LAD, on RHC, had PCWP 15 mm
   - Dow requested weaning sedation with goal to extubate, but patient so
   agitated while intubated that he required a bolus dose of sedation
   - Neuro: patient has multiple subacute bihemispheric infarcts c/w
   subacute CVA most likely from cardiac catheterization but not
   explaining confusion/agitation, recommend carotid U/S, fasting lipid
   panel (goal LDL <70), Hgb A1c [i put in the labs, but not the
   ultrasound for the AM]
   - Patient with meatal bleed, may be trauma from foley, but hct stable
   after cath, if it continues, will t/b with urology
   - Got 1L NS o/n for low uop
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2182-1-23**] 04:59 PM
   Cefipime - [**2182-1-25**] 05:34 PM
   Vancomycin - [**2182-1-25**] 10:28 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2182-1-25**] 10:31 PM
   Fentanyl - [**2182-1-25**] 10:31 PM
   Heparin Sodium (Prophylaxis) - [**2182-1-25**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-26**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 125 (83 - 125) bpm
   BP: 109/56(76) {77/41(56) - 153/76(93)} mmHg
   RR: 16 (6 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.6 kg (admission): 104.6 kg
   Height: 70 Inch
    CVP: 6 (6 - 13)mmHg
   Total In:
                                                                  3,313 mL
                                                                  1,727 mL
   PO:
   TF:
                                                                     73 mL
                                                                    151 mL
   IVF:
                                                                  3,211 mL
                                                                  1,276 mL
   Blood products:
   Total out:
                                                                    613 mL
                                                                    175 mL
   Urine:
                                                                    613 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,700 mL
                                                                  1,552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.43/42/75/24/2
   Ve: 7.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Diminished)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool, Left foot cooler than right
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   234 K/uL
   8.3 g/dL
   155 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   12 mg/dL
   110 mEq/L
   143 mEq/L
   25.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2182-1-24**]  02:37 PM
                             [**2182-1-25**]  01:34 AM
                             [**2182-1-25**]  03:27 AM
                             [**2182-1-25**]  06:30 AM
                             [**2182-1-25**]  07:01 AM
                             [**2182-1-25**]  05:13 PM
                             [**2182-1-25**]  05:25 PM
                             [**2182-1-25**]  11:30 PM
                             [**2182-1-26**]  05:00 AM
                             [**2182-1-26**]  05:15 AM
   WBC
   8.0
   6.0
   Hct
   30.0
   28.9
   27.6
   25.1
   Plt
   247
   226
   234
   Cr
   1.2
   1.0
   TCO2
   31
   36
   34
   30
   29
   29
   Glucose
   156
   155
   Other labs: PT / PTT / INR:16.0/31.8/1.4, CK / CKMB /
   Troponin-T:38/3/0.11, Lactic Acid:0.8 mmol/L, Ca++:8.1 mg/dL, Mg++:1.7
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Currently, patient has a new
   stent in the SVG-OM1 that is partially expanded. Patient returned to
   cath on [**1-25**] and had a PROMUS to the LIMA. His Right heart cath had a
   PCWP of 15 . On [**1-25**], patient has MAPs of roughly 50, on levophed
   implying shock.
   - central venous sat to better describe shock state
   - ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - Metoprolol Tartrate  37.5mg TID when bp
s tolerate
   .
   # Respiratory Distress with Complex Metabolic Disturbance: Patient
   intubated on [**1-23**] in context of worsening respiratory status and
   low-grade fever. CT chest demonstrated left lower lobe pneumonia and
   bilateral pleural effusions. Started on Vancomycin & Cefepime
   empirically. Urine culture from [**2182-1-23**] negative. ABG
s improving
   vis-a-vis CO2 but less so O2.
   - F/u blood cultures from [**2182-1-24**]
   - IV Vancomycin, day 4
   - Cefepime, day 4
   - Frequent ABG
   - RISBI today to assess potential for wean
   .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. On [**1-25**], he remained
   pressor dependent.
   - titrate pressors to MAP > 60
   - lasix, fluids for even fluid balance today
   Chronic managment
   - Metoprolol Tartrate 37.5mg TID when bp
s tolerate
   - Lisinopril PO 5mg daily when tolerating PO
   .
   # Agitation/Mental status changes
   # CVA's, Hx of TIA
    Patient's cardiac catheterization aborted [**1-29**] agitation that was
   refractory to significant doses of Haldol. Per patient's wife and
   [**Name (NI) 755**] Hospital records, patient has been confused and agitated since
   his hospitalization at [**Location (un) 755**]. At home, however, his wife states that
   he is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta).They
   suggest carotid dopplers. ction and CVA may be complicating already
   complex delirium and dementia picture.
   - carotids
   - f/u lipids, a1c
   - F/U Neurology recs
   - F/U Psych recs
   - Haldol for chemical restraints once extubated
   - 4 bed rail restraint
   - Frequent reorientation
   - Minimize lines & tubes as possible
   .
   #. Rhythm: Patient in normal sinus rhythm. Prior report of AF was
   likely telemetry static.
   - On telemetry
   - Metoprolol Tartrate 37.5mg PO TID when bp
s tolerate
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Home
   Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal.
   - IV Ativan 0.5mg-1mg q4H:PRN when extubated
   - SW consult
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
   #. HTN:  Currently hypotensive, requiring pressors.
   -Continue Lisinopril 5mg PO daily when bp
s tolerate
   -Continue Metoprolol Tartrate 37.5mg PO TID when bp
s tolerate
   .
    #. GERD:
   - Lansoprazole 30mg daily
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   20 Gauge - [**2182-1-24**] 04:00 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-01-27 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2182-1-26**] 08:59 AM
   - CXR: small pleural effusions
   - plan to RSBI and hopefully extubate tomorrow
   - weaning norepi
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-1-26**] 05:30 PM
   Vancomycin - [**2182-1-26**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-26**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 84 (84 - 121) bpm
   BP: 97/40(60) {86/38(55) - 115/64(81)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 104.6 kg
   Height: 70 Inch
             Total In:
                                                                  3,728 mL
                                                                    913 mL
   PO:
             TF:
                                                                    421 mL
                                                                    232 mL
   IVF:
                                                                  2,867 mL
                                                                    682 mL
   Blood products:
   Total out:
                                                                    686 mL
                                                                    185 mL
   Urine:
                                                                    646 mL
                                                                    185 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                  3,042 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (304 - 567) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.37/49/131/25/2
   Ve: 7 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Diminished)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  warm, no rash
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   208 K/uL
   7.8 g/dL
   172 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   13 mg/dL
   112 mEq/L
   144 mEq/L
   23.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-1-25**]  07:01 AM
                             [**2182-1-25**]  05:13 PM
                             [**2182-1-25**]  05:25 PM
                             [**2182-1-25**]  11:30 PM
                             [**2182-1-26**]  05:00 AM
                             [**2182-1-26**]  05:15 AM
                             [**2182-1-26**]  10:22 AM
                             [**2182-1-26**]  03:00 PM
                             [**2182-1-27**]  03:20 AM
                             [**2182-1-27**]  04:28 AM
   WBC
   6.0
   5.5
   Hct
   28.9
   27.6
   25.1
   25.5
   23.7
   Plt
   [**Telephone/Fax (3) 12957**]
   Cr
   1.0
   1.0
   TCO2
   30
   29
   29
   28
   29
   Glucose
   155
   172
   Other labs:
   PT / PTT / INR:15.3/35.6/1.3,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   CXR [**1-26**]:
   Left lower lobe atelectasis has worsened and small pleural effusions
   have
   increased. Size of the at least mildly enlarged heart is difficult to
   assess
   because of patient rotation. There is no pneumothorax. Pleural effusion
   if
   any is small, on both sides of the chest. ET tube is in standard
   placement
   and nasogastric tube passes below the diaphragm and out of view. Left
   jugular
   line tip projects over the SVC. No pneumothorax.
   Assessment and Plan
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Patient returned to cath on [**1-25**]
   and had a PROMUS to the LIMA. His Right heart cath had a PCWP of 15 .
   Since intubation, patient has been on varying rates of levophed
   infusion. Levophed was being weaned on [**1-26**].
   - ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - will start BB when bp
s tolerate
   .
   # Respiratory Distress with Complex Metabolic Disturbance: Patient
   intubated on [**1-23**] in context of worsening respiratory status and
   low-grade fever. CT chest demonstrated left lower lobe pneumonia and
   bilateral pleural effusions. Started on Vancomycin & Cefepime
   empirically. Urine culture from [**2182-1-23**] negative. ABG
s improving. RSBI
   56 on the morning of [**1-27**].
   - continue IV Vancomycin, day 5,  Cefepime, day 5
   - Frequent ABG
   - wean off sedation
   - attempt extubation today
   - haldol prn after extubation
   .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. His Right heart cath on
   [**1-25**] had a PCWP of 15.  On [**1-26**], he remained pressor dependent, but
   levophed was being weaned.
   - continue to wean pressor as tolerated
   - give 1u pRBC today
   - keep even fluid balance today
   - will start Metoprolol Tartrate and Lisinopril when BP can tolerate
   .
   # Agitation/Mental status changes/CVA's/Hx of TIA: Patient's cardiac
   catheterization aborted [**1-29**] agitation that was refractory to
   significant doses of Haldol. Per patient's wife and [**Name (NI) 755**] Hospital
   records, patient has been confused and agitated since his
   hospitalization at [**Location (un) 755**]. At home, however, his wife states that he
   is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta). This
   CVA may be complicating already complex delirium and dementia picture.
   - wean off sedation
   - haldol prn
   - carotids
   - f/u hemoglobin a1c
   - F/U Neurology recs
   - F/U Psych recs
   - Haldol for chemical restraints once extubated
   - 4 bed rail restraint
   - Frequent reorientation
   - Minimize lines & tubes as possible
   .
   #. Rhythm: Patient in normal sinus rhythm. Prior report of AF was
   likely telemetry static.
   - On telemetry
   - will start BB when BP can tolerate
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Home
   Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal.
   - IV Ativan 0.5mg-1mg q4H:PRN when extubated
   - SW consult
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
   #. HTN:  Currently hypotensive, requiring pressors.
   - continue to wean pressors
   - will restart Lisinopril and Metoprolol Tartrate when bp
s tolerate
   .
    #. GERD:
   - Lansoprazole 30mg daily
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-1-27**] 04:02 AM 40 mL/hour
   Glycemic Control:  insulin NPH and SS
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   20 Gauge - [**2182-1-24**] 04:00 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole Oral Disintegrating Tab 30 mg PO/NG DAILY
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-01-28 07:10:00 Physician Resident Progress Note
Chief Complaint: 82M hx CABG, DM, EtOH abuse transferred to CCU after
   aborted cardiac catheterization caused by agitation following OSH
   admission for respiratory failure and NSTEMI
   The patient was intubated for respiratory distress, taken to cath lab
   to finish stenting, since been extubated and placed on BiPAP, weaned
   this AM.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-1-27**] 11:05 AM
   - extubated
 NON-INVASIVE VENTILATION - START [**2182-1-27**] 04:00 PM
   - BiPAP
 weaned
   Off levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-1-27**] 12:05 PM
   Cefipime - [**2182-1-27**] 04:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-27**] 04:00 PM
   Furosemide (Lasix) - [**2182-1-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-28**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 109 (88 - 118) bpm
   BP: 123/59(84) {95/47(64) - 135/69(95)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.3 kg (admission): 104.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,106 mL
                                                                    320 mL
   PO:
                                                                    120 mL
             TF:
                                                                    237 mL
   IVF:
                                                                  1,374 mL
                                                                    320 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,040 mL
                                                                    520 mL
   Urine:
                                                                  3,040 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -934 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 591 (331 - 948) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.38/53/143/30/5
   Ve: 5.9 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal) II/VI SEM, girthy neck,
   unable to assess JVD
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anterior exam)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, in restraints
   Skin:  Warm
   Neurologic: Responds to: voice, does not follow commands, Movement:
   spontaneous movement of 4 ext, Tone: Not assessed
   Labs / Radiology
   248 K/uL
   8.9 g/dL
   146 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   26.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2182-1-26**]  10:22 AM
                             [**2182-1-26**]  03:00 PM
                             [**2182-1-27**]  03:20 AM
                             [**2182-1-27**]  04:28 AM
                             [**2182-1-27**]  09:13 AM
                             [**2182-1-27**]  03:14 PM
                             [**2182-1-27**]  03:24 PM
                             [**2182-1-27**]  04:28 PM
                             [**2182-1-28**]  03:32 AM
                             [**2182-1-28**]  04:03 AM
   WBC
   5.5
   6.0
   Hct
   25.5
   23.7
   26.6
   26.5
   Plt
   208
   248
   Cr
   1.0
   1.0
   TCO2
   28
   29
   28
   29
   29
   33
   Glucose
   172
   146
   Other labs: PT / PTT / INR:15.3/35.6/1.3, CK / CKMB /
   Troponin-T:38/3/0.11, Lactic Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:1.7
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs:
   [**2182-1-28**] 04:30 AM    ART     7.38/53/143/33/5
   [**2182-1-27**] 04:28PM    ART   7.35/51/90/29/0
   [**2182-1-27**] 03:24PM    ART   7.33/53/222/29/1
   [**2182-1-27**] 09:13AM    ART    7.34/49/75/28/0
   [**2182-1-27**] 04:28AM    ART  7.37/49/131/29/2
   Imaging: [**2182-1-28**] CXR Left lower lobe atelectasis has worsened and small
   pleural effusions have increased. Size of the at least mildly enlarged
   heart is difficult to assess because of patient rotation. There is no
   pneumothorax. Pleural effusion if any is small, on both sides of the
   chest. ET tube is in standard placement and nasogastric tube passes
   below the diaphragm and out of view. Left jugular line tip projects
   over the SVC. No pneumothorax.
   Microbiology: [**2182-1-24**] 5:41 pm CATHETER TIP-IV  - subclavian - no
   growth - final
   [**2182-1-24**] Blood cx x2 - no growth to date
   [**2182-1-23**] urine cx - no growth - final
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Patient returned to cath on [**1-25**]
   and had a PROMUS to the LIMA. His Right heart cath had a PCWP of 15 .
   Since intubation, patient has been on varying rates of levophed
   infusion. Levophed was being weaned off [**1-26**]. Has since been extubated.
   Pressures have been stable enough to start beta blocker.
   - ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - start metoprolol 25mg PO BID
   .
   # Respiratory Distress with Complex Metabolic Disturbance: Patient
   intubated on [**1-23**] in context of worsening respiratory status and
   low-grade fever. CT chest demonstrated left lower lobe pneumonia and
   bilateral pleural effusions. Started on Vancomycin & Cefepime
   empirically. Urine culture from [**2182-1-23**] negative. ABG
s improving. RSBI
   56 on the morning of [**1-27**].  Pt extubated on [**2182-1-27**]. Put on BiPAP.
   Tolerating well with good oxygenation. Some CO2 retention however, pH
   relatively normal. [**Month (only) 51**] have been retaining chronically but appears
   compensated. Will continue to follow with ABGs. Afebrile, some
   coughing, no production. Lungs with bibasilar crackles.
   - continue IV Vancomycin, day 6,  Cefepime, day 6 (plan for 8 day
   course)
   - Frequent ABG
   - wean off O2 as tolerated to keep SaO2 > 90%
   .
   #. Sinus Tachycardia: Unclear etiology. Had fluid challenge and pRBCs
   yesterday without improvement. [**Month (only) 51**] be secondary to volume status. CVP
   checked and is low at 4-7. No evidence of PE, on prophylaxis. No
   evidence of active ischemia. [**Month (only) 51**] be secondary to beta blocker
   withdrawal vs agitation/delirium.
   - attempt to minimize delirium as below
   - start metoprolol tartrate 25mg [**Hospital1 7**]
   - will need NG tube for medications
   - cont tele
   .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. His Right heart cath on
   [**1-25**] had a PCWP of 15.  On [**1-26**], he remained pressor dependent, but
   levophed was weaned.  Currently stable pressures.
   - consider transfusion if evidence of hypoperfusion
 none at this time
   - keep even fluid balance today
   - start metoprolol tartrate today
   .
   # Agitation/Mental status changes/CVA's/Hx of TIA: Patient's cardiac
   catheterization aborted [**1-29**] agitation that was refractory to
   significant doses of Haldol. Per patient's wife and [**Name (NI) 755**] Hospital
   records, patient has been confused and agitated since his
   hospitalization at [**Location (un) 755**]. At home, however, his wife states that he
   is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta). This
   CVA may be complicating already complex delirium and dementia picture.
   - carotids
   - f/u hemoglobin a1c
   - F/U Neurology recs
   - F/U Psych recs
   - 4 bed rail restraint, 2 ext restraints
 pulling at lines
   - Frequent reorientation
   - Minimize lines & tubes as possible
   - NGT today for medications
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Home
   Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal. Now is outside
   window for EtOH withdrawal. Will need monitoring for benzo withdrawal.
   - SW consult  when mental status improves
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
    #. GERD:
   - Lansoprazole 30mg daily
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition: None
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   20 Gauge - [**2182-1-24**] 04:00 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-01-29 05:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NGT placed, tube feeds started slowly
   -metoprolol started at 25mg, increased to 37.5 at midnight.
   -started on senna/colace as unclear when last BM was.
   -pt had some bloody sputum x1.  EKG showed no evidence of RV strain,
   PE.
   -given 40mg lasix at 1am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-1-28**] 05:00 PM
   Vancomycin - [**2182-1-28**] 08:27 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-28**] 10:00 PM
   Furosemide (Lasix) - [**2182-1-29**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-29**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 94 (82 - 120) bpm
   BP: 133/59(88) {95/45(64) - 150/90(106)} mmHg
   RR: 28 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 104.6 kg
   Height: 70 Inch
    CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  1,715 mL
                                                                    415 mL
   PO:
   TF:
                                                                    185 mL
                                                                    184 mL
   IVF:
                                                                  1,040 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                  1,195 mL
   Urine:
                                                                  1,200 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    515 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 100%
   ABG: 7.42/44/71/29/3
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   254 K/uL
   9.9 g/dL
   208 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   143 mEq/L
   30.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2182-1-27**]  03:14 PM
                             [**2182-1-27**]  03:24 PM
                             [**2182-1-27**]  04:28 PM
                             [**2182-1-28**]  03:32 AM
                             [**2182-1-28**]  04:03 AM
                             [**2182-1-28**]  08:50 AM
                             [**2182-1-28**]  01:54 PM
                             [**2182-1-28**]  04:20 PM
                             [**2182-1-29**]  12:33 AM
                             [**2182-1-29**]  03:15 AM
   WBC
   6.0
   6.6
   Hct
   26.6
   26.5
   27.6
   30.2
   Plt
   248
   254
   Cr
   1.0
   0.9
   TCO2
   29
   29
   33
   32
   31
   30
   Glucose
   146
   208
   Other labs: PT / PTT / INR:15.3/35.6/1.3, CK / CKMB /
   Troponin-T:38/3/0.11, Lactic Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR
   Final Report
   INDICATION: 82-year-old man with NSTEMI, respiratory failure and status
   post
   placement of NG tube. Evaluate for position of NG tube.
   COMPARISON: Multiple priors, most recent portable AP chest radiograph
   [**2182-1-28**].
   TECHNIQUE: Portable AP chest radiograph.
   FINDINGS: Comparison is made to portable AP chest radiograph obtained
   earlier
   today. Gastric tube is noted to extend beyond the level of the
   diaphragm with
   tip coiled within the stomach. Otherwise, no interval change noted from
   most
   recent portable AP chest radiograph obtained earlier today.
   ECG: 12:30am - Normal sinus rhythm, no ST changes.  No evidence of RV
   strain.
   Assessment and Plan
   Patient is a 82 yo with hx of CABG, DM, EtOH abuse, transferred to CCU
   after aborted cardiac catheterization caused by agitation following an
   OSH ICU admission for respiratory failure & NSTEMI.
   .
   #. NSTEMI/CAD: Patient's symptoms prior to hospitalization are
   concerning for unstable angina and enzymes at OSH were suggestive of
   NSTEMI in the setting of Troponin elevation. However, no EKGs are
   available from the OSH. Serum troponin on admission to [**Hospital1 19**] was 0.04.
   Cardiac catheterization demonstrated occlusion of the SVG-OM1 &
   LIMA-LAD grafts, but patient agitation during procedure prevented
   completion of cardiac catheterization. Patient returned to cath on [**1-25**]
   and had a PROMUS to the LIMA. His Right heart cath had a PCWP of 15 .
   Since intubation, patient has been on varying rates of levophed
   infusion. Levophed was being weaned off [**1-26**]. Has since been extubated.
   Pressures have been stable enough to start beta blocker.
   - ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - start metoprolol 25mg PO BID
   .
   # Respiratory Distress with Complex Metabolic Disturbance: Patient
   intubated on [**1-23**] in context of worsening respiratory status and
   low-grade fever. CT chest demonstrated left lower lobe pneumonia and
   bilateral pleural effusions. Started on Vancomycin & Cefepime
   empirically. Urine culture from [**2182-1-23**] negative. ABG
s improving. RSBI
   56 on the morning of [**1-27**].  Pt extubated on [**2182-1-27**]. Put on BiPAP.
   Tolerating well with good oxygenation. Some CO2 retention however, pH
   relatively normal. [**Month (only) 51**] have been retaining chronically but appears
   compensated. Will continue to follow with ABGs. Afebrile, some
   coughing, no production. Lungs with bibasilar crackles.
   - continue IV Vancomycin, day 6,  Cefepime, day 6 (plan for 8 day
   course)
   - Frequent ABG
   - wean off O2 as tolerated to keep SaO2 > 90%
   .
   #. Sinus Tachycardia: Unclear etiology. Had fluid challenge and pRBCs
   yesterday without improvement. [**Month (only) 51**] be secondary to volume status. CVP
   checked and is low at 4-7. No evidence of PE, on prophylaxis. No
   evidence of active ischemia. [**Month (only) 51**] be secondary to beta blocker
   withdrawal vs agitation/delirium.
   - attempt to minimize delirium as below
   - start metoprolol tartrate 25mg [**Hospital1 7**]
   - will need NG tube for medications
   - cont tele
   .
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. His Right heart cath on
   [**1-25**] had a PCWP of 15.  On [**1-26**], he remained pressor dependent, but
   levophed was weaned.  Currently stable pressures.
   - consider transfusion if evidence of hypoperfusion
 none at this time
   - keep even fluid balance today
   - start metoprolol tartrate today
   .
   # Agitation/Mental status changes/CVA's/Hx of TIA: Patient's cardiac
   catheterization aborted [**1-29**] agitation that was refractory to
   significant doses of Haldol. Per patient's wife and [**Name (NI) 755**] Hospital
   records, patient has been confused and agitated since his
   hospitalization at [**Location (un) 755**]. At home, however, his wife states that he
   is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta). This
   CVA may be complicating already complex delirium and dementia picture.
   - carotids
   - f/u hemoglobin a1c
   - F/U Neurology recs
   - F/U Psych recs
   - 4 bed rail restraint, 2 ext restraints
 pulling at lines
   - Frequent reorientation
   - Minimize lines & tubes as possible
   - NGT today for medications
   .
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Home
   Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   .
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal. Now is outside
   window for EtOH withdrawal. Will need monitoring for benzo withdrawal.
   - SW consult  when mental status improves
   .
   #. HLD: Continue Atorvastatin 80mg daily.
   .
    #. GERD:
   - Lansoprazole 30mg daily
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-1-28**] 01:58 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2182-01-29 07:42:00 Physician Resident Progress Note
Chief Complaint: 82M with PMHx CABG, DM, EtOH abuse s/p catheterization
   with stent placement to LIMA, c/b respiratory failure, hypotension,
   pneumonia
   24 Hour Events:
   - NGT placed, tube feeds started slowly
   - metoprolol tartrate 25mg [**Hospital1 7**] started, uptitrated to 37.5mg [**Hospital1 7**] at MN
   - started on senna/colace as unclear when last BM was
   - pt with some bloody sputum - thought to be secondary to NGT
   placement, EKG without evidence of RH strain
   - given 40mg lasix at 1 AM
   - weaned to NC, desaturated, back to FM 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-1-28**] 05:00 PM
   Vancomycin - [**2182-1-28**] 08:27 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-28**] 10:00 PM
   Furosemide (Lasix) - [**2182-1-29**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-29**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 97 (82 - 120) bpm
   BP: 140/66(96) {95/45(64) - 150/90(106)} mmHg
   RR: 24 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.9 kg (admission): 104.6 kg
   Height: 70 Inch
    CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  1,715 mL
                                                                    589 mL
   PO:
   TF:
                                                                    185 mL
                                                                    270 mL
   IVF:
                                                                  1,040 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                  1,415 mL
   Urine:
                                                                  1,200 mL
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    515 mL
                                                                   -826 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 97%
   ABG: 7.42/44/71/29/3
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   254 K/uL
   9.9 g/dL
   208 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   143 mEq/L
   30.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2182-1-27**]  03:14 PM
                             [**2182-1-27**]  03:24 PM
                             [**2182-1-27**]  04:28 PM
                             [**2182-1-28**]  03:32 AM
                             [**2182-1-28**]  04:03 AM
                             [**2182-1-28**]  08:50 AM
                             [**2182-1-28**]  01:54 PM
                             [**2182-1-28**]  04:20 PM
                             [**2182-1-29**]  12:33 AM
                             [**2182-1-29**]  03:15 AM
   WBC
   6.0
   6.6
   Hct
   26.6
   26.5
   27.6
   30.2
   Plt
   248
   254
   Cr
   1.0
   0.9
   TCO2
   29
   29
   33
   32
   31
   30
   Glucose
   146
   208
   Other labs: PT / PTT / INR:15.3/35.6/1.3, CK / CKMB /
   Troponin-T:38/3/0.11, Lactic Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: [**2182-1-29**] 12:33AM    ART 7.42/44/71/30/3
   [**2182-1-28**] 01:54PM    ART  7.39/49/108/31/3
   [**2182-1-28**] 08:50AM    ART  7.36/54/132/32/3
   [**2182-1-28**] 04:03AM    ART   7.38/53/143/33/5
   Imaging: [**2182-1-28**] CXR: Comparison is made to portable AP chest radiograph
   obtained earlier today. Gastric tube is noted to extend beyond the
   level of the diaphragm with tip coiled within the stomach. Otherwise,
   no interval change noted from most recent portable AP chest radiograph
   obtained earlier today.
   Microbiology: [**2182-1-24**]  CATHETER TIP-IV WOUND CULTURE-NO GROWTH FINAL
   [**2182-1-24**]  BLOOD CULTURE -PENDING NGTD
   [**2182-1-24**]  BLOOD CULTURE -PENDING NGTD
   [**2182-1-23**]  URINE URINE CULTURE-NO GROWTH FINAL
   ECG: [**2182-1-28**] EKG (intern read): sinus tachycardia at 94, QTc 441,
   borderline LAD, poor R wave progression, Q waves III, V1, no ST
   deviation, T weave inversion I, aVL, flattened Ts V1, V5, V6
   Assessment and Plan
   82M with history of CABG, DM, EtOH abuse, presented to OSH with NSTEMI
   c/b respiratory failure requiring intubation, pna on abx, agitation and
   sinus tachycardia, now s/p PROMUS to LIMA.
   #. NSTEMI/CAD: The patient presented to an outside hospital with angina
   and troponin elevation. No EKG from OSH. Likely NSTEMI given EKG at
   [**Hospital1 19**]. Serum troponin at admission of 0.04. The patient underwent
   cardiac catheterization which demonstrated occlusion of SVG-OM1 and
   LIMA-LAD grafts. The patient was very agitated during the procedure and
   the procedure was aborted. The patient returned to that cath lab and
   had a PROMUS placed in his LIMA. The patient is currently chest pain
   free and has been off NTG drip.
   - Aspirin 325mg daily
   - Clopidogrel 75mg daily
   - Atorvastatin 80mg daily
   - Uptitrate metoprolol tartrate (currently at 37.5 [**Hospital1 7**]) to 50mg [**Hospital1 7**]
   - Consider adding low dose ACE inhibitor if pressures tolerate
   #. Respiratory failure: Unclear etiology. The patient was intubated on
   [**1-23**] in context of worsening respiratory status and low grade fever.
   The patient had a CT of the chest which demonstrated LLL pneumonia with
   bilateral pleural effusions. He was started on vancomycin and cefepime
   with a plan for an 8 day course. The patient was extubated on [**2182-1-27**].
   Put on BiPAP and tolerated with well. Was weaned to 50% FM and is
   currently oxygenating well. Patient is hypercarbic but with stable pH
   which means it may be chronic. Currently ABG appear stable but patient
   requiring large amounts of supplemental O2. Will continue to evaluated.
   CVP measured yesterday which was ~7 (although in context of single
   measurement is relatively meaningless).
   - continue IV vancomycin day 7, cefepime day 7 (plan for 8 day course)
   - continue frequent ABGs
   - wean off O2 as tolerated to keep SaO2 > 90%
   - CXR - ?new consolidation, fluid status
   #. Sinus tachycardia: Unclear etiology. The patient had fluid challenge
   and pRBCs without clear any change in heart rate or blood pressure.
   Differential includes hypotension, PE, beta blocker withdrawal,
   hypoxia, fever, anxiety/agitation, hyperthyroidism, ischemia/MI, heart
   failure, chronic pulmonary disease. The patinet has a relatively low
   CVP but also did not respond to fluid challenges. Patient was
   anticoagulated and thus shouldn't have PE. ABG show patient isn't
   hypoxemic. No current fever. No history of hyperthyroidism or ongoing
   ischemia or MI. No history of pulmonary disease. Front runners include
   beta blocker withdrawal, anxiety/agitation and heart failure. Recent
   echo with maintained systolic function. Restarting beta blocker today.
   Will do best to control delirium and agitation with normal precautions.
   - minimize delirium
   - uptitrate metoprolol
   - continue tele
   - consider fluid challenge if continues
   - consider eval for PE
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. His Right heart cath on
   [**1-25**] had a PCWP of 15.  On [**1-26**], he remained pressor dependent, but
   levophed was weaned.  Currently stable pressures.
   - consider transfusion or IVF bolus if evidence of hypoperfusion
 none
   at this time
   - keep even fluid balance today
   - start metoprolol tartrate today
   # Agitation/Mental status changes/CVA's/Hx of TIA: Patient's cardiac
   catheterization aborted [**1-29**] agitation that was refractory to
   significant doses of Haldol. Per patient's wife and [**Name (NI) 755**] Hospital
   records, patient has been confused and agitated since his
   hospitalization at [**Location (un) 755**]. At home, however, his wife states that he
   is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta). This
   CVA may be complicating already complex delirium and dementia picture.
   - consider carotid u/s per neuro recs
   - f/u hemoglobin A1C
   - F/U Neurology recs
   - F/U Psych recs
   - 4 bed rail restraint, 2 ext restraints
 pulling at lines
   - Frequent reorientation
   - Minimize lines & tubes as possible
   #. DM: Will continue NPH & insulin sliding scale from OSH.  Home
   Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal. Now is outside
   window for EtOH withdrawal. Will need monitoring for benzo withdrawal.
   - SW consult  when mental status improves
   .
   #. HLD:
   - Continue Atorvastatin 80mg daily.
    #. GERD:
   - Lansoprazole 30mg daily
   .
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-1-28**] 01:58 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: lansoprazole, HOB elevation
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2182-01-30 07:31:00 Physician Resident Progress Note
Chief Complaint: 82M with history of CABG, DM, EtOH abuse, presented to
   OSH with NSTEMI c/b respiratory failure requiring intubation, pna on
   abx, agitation and sinus tachycardia, now s/p PROMUS to LIMA.
   24 Hour Events:
 EKG - At [**2182-1-30**] 04:00 AM
   - increased metop to 50mg [**Hospital1 7**] in AM (w caution, prefer to not increase
   any further so as not to mask another cause of sinus tach)
   - speech and swallow consulted
   - CXR shows no significant changes, Bibasilar atelectatic changes
   without definite acute focal pneumonia.
   - Goal to wean O2, improve mental status, then screen for rehab
   - switched metop to TID dosing 37.5mg (in AM) to better cover him
   around the clock
   - needed Nebs treatment for wheezing around 12-12:30am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-1-29**] 05:15 PM
   Vancomycin - [**2182-1-29**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 94 (79 - 110) bpm
   BP: 121/80(99) {94/56(80) - 146/82(133)} mmHg
   RR: 23 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.1 kg (admission): 104.6 kg
   Height: 70 Inch
    CVP: 9 (5 - 10)mmHg
   Total In:
                                                                  3,033 mL
                                                                    834 mL
   PO:
   TF:
                                                                  1,263 mL
                                                                    518 mL
   IVF:
                                                                    890 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    250 mL
   Urine:
                                                                  2,650 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.44/48/118/31/7
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, pupils 2mm
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   best heard at base
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place (not time), Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   275 K/uL
   10.0 g/dL
   256 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.6 mEq/L
   12 mg/dL
   102 mEq/L
   141 mEq/L
   29.9 %
   6.2 K/uL
        [image002.jpg]
                             [**2182-1-28**]  03:32 AM
                             [**2182-1-28**]  04:03 AM
                             [**2182-1-28**]  08:50 AM
                             [**2182-1-28**]  01:54 PM
                             [**2182-1-28**]  04:20 PM
                             [**2182-1-29**]  12:33 AM
                             [**2182-1-29**]  03:15 AM
                             [**2182-1-29**]  04:12 PM
                             [**2182-1-29**]  04:24 PM
                             [**2182-1-30**]  03:16 AM
   WBC
   6.0
   6.6
   6.2
   Hct
   26.5
   27.6
   30.2
   29.9
   Plt
   [**Telephone/Fax (3) 13006**]
   Cr
   1.0
   0.9
   1.0
   0.9
   TCO2
   33
   32
   31
   30
   34
   Glucose
   146
   208
   245
   256
   Other labs: PT / PTT / INR:15.3/35.6/1.3, CK / CKMB /
   Troponin-T:38/3/0.11, Lactic Acid:0.7 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Imaging: [**2182-1-29**] CXR: In comparison with the study of [**1-28**], there is
   little change in the
   appearance of the central catheter and gastric tube. Persistent low
   lung
   volumes. Bibasilar atelectatic changes without definite acute focal
   pneumonia.
   Microbiology: [**2182-1-24**]  CATHETER TIP-IV WOUND CULTURE-No growth
   [**2182-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2182-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2182-1-23**]  URINE URINE CULTURE-no growth
   Assessment and Plan
   82M with history of CABG, DM, EtOH abuse, presented to OSH with NSTEMI
   c/b respiratory failure requiring intubation, pna on abx, agitation and
   sinus tachycardia, now s/p PROMUS to LIMA.
   #. NSTEMI/CAD: The patient presented to an outside hospital with angina
   and troponin elevation. No EKG from OSH. Likely NSTEMI given EKG at
   [**Hospital1 19**]. Serum troponin at admission of 0.04. The patient underwent
   cardiac catheterization which demonstrated occlusion of SVG-OM1 and
   LIMA-LAD grafts. The patient was very agitated during the procedure and
   the procedure was aborted. The patient returned to that cath lab and
   had a PROMUS placed in his LIMA. The patient is currently chest pain
   free and has been off NTG drip.
   - Aspirin 325mg daily
   - Clopidogrel 75mg daily
   - Atorvastatin 80mg daily
   - Continue metoprolol tartrate 37.5mg TID
   - Consider adding low dose ACE inhibitor if pressures tolerate
   #. Respiratory failure: Unclear etiology. The patient was intubated on
   [**1-23**] in context of worsening respiratory status and low grade fever.
   The patient had a CT of the chest which demonstrated LLL pneumonia with
   bilateral pleural effusions. He was started on vancomycin and cefepime
   with a plan for an 8 day course. The patient was extubated on [**2182-1-27**].
   Put on BiPAP and tolerated with well. Was weaned to 50% FM and is
   currently oxygenating well. Patient is hypercarbic but with stable pH
   which means it may be chronic. Currently ABG appear stable but patient
   requiring large amounts of supplemental O2. Will continue to evaluated.
   CVP measured yesterday which was ~7 (although in context of single
   measurement is relatively meaningless).
   - continue IV vancomycin day 8, cefepime day 8 (plan for 8 day course)
   - d/c antibiotics after todays dose
   - continue frequent ABGs
   - wean off O2 as tolerated to keep SaO2 > 90%
   #. Sinus tachycardia: Unclear etiology. The patient had fluid challenge
   and pRBCs without clear any change in heart rate or blood pressure.
   Differential includes hypotension, PE, beta blocker withdrawal,
   hypoxia, fever, anxiety/agitation, hyperthyroidism, ischemia/MI, heart
   failure, chronic pulmonary disease. The patinet has a relatively low
   CVP but also did not respond to fluid challenges. Patient was
   anticoagulated and thus shouldn't have PE. ABG show patient isn't
   hypoxemic. No current fever. No history of hyperthyroidism or ongoing
   ischemia or MI. No history of pulmonary disease. Front runners include
   beta blocker withdrawal, anxiety/agitation and heart failure. Recent
   echo with maintained systolic function. Restarting beta blocker today.
   Will do best to control delirium and agitation with normal precautions.
   - minimize delirium
   - discontinue lines as possible
   - continue tele
   - consider fluid challenge today
   - consider eval for PE
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. His Right heart cath on
   [**1-25**] had a PCWP of 15.  On [**1-26**], he remained pressor dependent, but
   levophed was weaned.  Currently stable pressures.
   - consider transfusion or IVF bolus if evidence of hypoperfusion
 none
   at this time
   - keep even fluid balance today
   - start metoprolol tartrate today
   # Agitation/Mental status changes/CVA's/Hx of TIA: Patient's cardiac
   catheterization aborted [**1-29**] agitation that was refractory to
   significant doses of Haldol. Per patient's wife and [**Name (NI) 755**] Hospital
   records, patient has been confused and agitated since his
   hospitalization at [**Location (un) 755**]. At home, however, his wife states that he
   is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta). This
   CVA may be complicating already complex delirium and dementia picture.
   - consider carotid u/s per neuro recs
   - f/u hemoglobin A1C
   - F/U Neurology recs
   - F/U Psych recs
   - 4 bed rail restraint, 2 ext restraints
 pulling at lines
   - Frequent reorientation
   - Minimize lines & tubes as possible
   #. DM: Will continue NPH & insulin sliding scale from OSH. Increased
   dose [**1-29**] restarting feeding.  Home Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal. Now is outside
   window for EtOH withdrawal. Will need monitoring for benzo withdrawal.
   - SW consult  when mental status improves
   #. HLD:
   - Continue Atorvastatin 80mg daily.
    #. GERD:
   - Lansoprazole 30mg daily
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-1-30**] 06:39 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2182-1-24**] 02:09 PM
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-01-31 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - speech and swallow - can cautiosly initiate pureed solids/nectar
   thick liquids - will follow up tomorrow to ensure tolerance. KEEP NGT.
   - d/ced A-line
   - patient pulled out NGT
   - mitts placed
   - vancomycin and cefepime discontinued.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-1-29**] 05:15 PM
   Vancomycin - [**2182-1-30**] 10:40 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-30**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-31**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 89 (79 - 109) bpm
   BP: 113/58(69) {91/46(57) - 134/95(103)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.3 kg (admission): 104.6 kg
   Height: 70 Inch
    CVP: 10 (9 - 14)mmHg
   Total In:
                                                                  2,746 mL
                                                                    108 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
                                                                  1,426 mL
   IVF:
                                                                    540 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    195 mL
   Urine:
                                                                    970 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,776 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General Appearance: Overweight / Obese, confused
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), murmur
   heard best at right sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally to [**1-30**] of lung fields, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): person,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   237 K/uL
   9.4 g/dL
   182 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.0 mEq/L
   14 mg/dL
   103 mEq/L
   143 mEq/L
   28.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2182-1-28**]  04:03 AM
                             [**2182-1-28**]  08:50 AM
                             [**2182-1-28**]  01:54 PM
                             [**2182-1-28**]  04:20 PM
                             [**2182-1-29**]  12:33 AM
                             [**2182-1-29**]  03:15 AM
                             [**2182-1-29**]  04:12 PM
                             [**2182-1-29**]  04:24 PM
                             [**2182-1-30**]  03:16 AM
                             [**2182-1-31**]  04:05 AM
   WBC
   6.6
   6.2
   8.2
   Hct
   27.6
   30.2
   29.9
   28.0
   Plt
   [**Telephone/Fax (3) 13053**]
   Cr
   0.9
   1.0
   0.9
   1.0
   TCO2
   33
   32
   31
   30
   34
   Glucose
   [**Telephone/Fax (3) 13054**]82
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:38/3/0.11, Lactic Acid:0.7 mmol/L, Ca++:9.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:
   FINDINGS: In comparison with the study of [**1-28**], there is little change
   in the
   appearance of the central catheter and gastric tube. Persistent low
   lung
   volumes. Bibasilar atelectatic changes without definite acute focal
   pneumonia
   Assessment and Plan
   82M with history of CABG, DM, EtOH abuse, presented to OSH with NSTEMI
   c/b respiratory failure requiring intubation, pna on abx, agitation and
   sinus tachycardia, now s/p PROMUS to LIMA.
   #. NSTEMI/CAD: The patient presented to an outside hospital with angina
   and troponin elevation. No EKG from OSH. Likely NSTEMI given EKG at
   [**Hospital1 19**]. Serum troponin at admission of 0.04. The patient underwent
   cardiac catheterization which demonstrated occlusion of SVG-OM1 and
   LIMA-LAD grafts. The patient was very agitated during the procedure and
   the procedure was aborted. The patient returned to that cath lab and
   had a PROMUS placed in his LIMA. The patient is currently chest pain
   free and has been off NTG drip.
   - Aspirin 325mg daily
   - Clopidogrel 75mg daily
   - Atorvastatin 80mg daily
   - Continue metoprolol tartrate 37.5mg TID
   - Consider adding low dose ACE inhibitor if pressures tolerate
   #. Respiratory failure: Unclear etiology. The patient was intubated on
   [**1-23**] in context of worsening respiratory status and low grade fever.
   The patient had a CT of the chest which demonstrated LLL pneumonia with
   bilateral pleural effusions. He was started on vancomycin and cefepime
   with a plan for an 8 day course. The patient was extubated on [**2182-1-27**].
   Put on BiPAP and tolerated with well. Was weaned to 50% FM and is
   currently oxygenating well. Patient is hypercarbic but with stable pH
   which means it may be chronic. Currently ABG appear stable but patient
   requiring large amounts of supplemental O2. Will continue to evaluated.
   CVP measured yesterday which was ~7 (although in context of single
   measurement is relatively meaningless).
   - continue IV vancomycin day 8, cefepime day 8 (plan for 8 day course)
   - d/c antibiotics after todays dose
   - continue frequent ABGs
   - wean off O2 as tolerated to keep SaO2 > 90%
   #. Sinus tachycardia: Unclear etiology. The patient had fluid challenge
   and pRBCs without clear any change in heart rate or blood pressure.
   Differential includes hypotension, PE, beta blocker withdrawal,
   hypoxia, fever, anxiety/agitation, hyperthyroidism, ischemia/MI, heart
   failure, chronic pulmonary disease. The patinet has a relatively low
   CVP but also did not respond to fluid challenges. Patient was
   anticoagulated and thus shouldn't have PE. ABG show patient isn't
   hypoxemic. No current fever. No history of hyperthyroidism or ongoing
   ischemia or MI. No history of pulmonary disease. Front runners include
   beta blocker withdrawal, anxiety/agitation and heart failure. Recent
   echo with maintained systolic function. Restarting beta blocker today.
   Will do best to control delirium and agitation with normal precautions.
   - minimize delirium
   - discontinue lines as possible
   - continue tele
   - consider fluid challenge today
   - consider eval for PE
   #. Acute on chronic systolic CHF: CHF with EF51% as assessed by nuclear
   imaging at OSH in mid-[**Month (only) 25**], but this is not the best study for EF.
   Patient with persistent fluid overload on admission, but he was not
   pre-hydrated in anticipation of cardiac catheterization. On transfer,
   patient demonstrates mild respiratory distress and O2 requirement,
   limited clinical exam suggests fluid overload. Received IV Lasix on
   transfer with good UOP, but was fluid overloaded as of [**1-23**] AM. TTE on
   [**1-23**] showed EF 30-35% with global hypokinesis. His Right heart cath on
   [**1-25**] had a PCWP of 15.  On [**1-26**], he remained pressor dependent, but
   levophed was weaned.  Currently stable pressures.
   - consider transfusion or IVF bolus if evidence of hypoperfusion
 none
   at this time
   - keep even fluid balance today
   - start metoprolol tartrate today
   # Agitation/Mental status changes/CVA's/Hx of TIA: Patient's cardiac
   catheterization aborted [**1-29**] agitation that was refractory to
   significant doses of Haldol. Per patient's wife and [**Name (NI) 755**] Hospital
   records, patient has been confused and agitated since his
   hospitalization at [**Location (un) 755**]. At home, however, his wife states that he
   is not confused, but does exhibit short-term memory impairments. As
   patient has been attempting to get out of bed, pulling at lines, and is
   not fully oriented despite repeated verbal reorientation, his primary
   process appears to be agitation with some minor component of
   dementia/delirium. Patient also takes Ativan PO PRN at home, so he may
   have some component of benzodiazepine withdrawal. Normal metabolic
   work-up as an inpatient. CT head on [**1-24**] demonstrated a small lacunar
   infarct of indeterminate age, so neurology was consulted. Neuro finds
   Small bihemispheric subacute infarcts involving multiple vascular
   territories, suggesting a proximal source (heart or the aorta). This
   CVA may be complicating already complex delirium and dementia picture.
   - consider carotid u/s per neuro recs
   - f/u hemoglobin A1C
   - F/U Neurology recs
   - F/U Psych recs
   - 4 bed rail restraint, 2 ext restraints
 pulling at lines
   - Frequent reorientation
   - Minimize lines & tubes as possible
   #. DM: Will continue NPH & insulin sliding scale from OSH. Increased
   dose [**1-29**] restarting feeding.  Home Gabapentin held.
   - NPH 20u [**Hospital1 7**] & Humalog sliding scale
   #. EtOH abuse: Patient with h/o DT's with EtOH withdrawal, most
   recently at [**Location (un) 755**] prior to hospital transfer. Drinks a pint of
   whiskey a day at home, but his last drink was prior to admission to
   [**Location (un) 755**] on [**1-7**]. He was maintained on a CIWA scale during that
   hospitalization, but also takes Ativan 1mg PO BID:PRN at home so he
   could have some degree of benzodiazepine withdrawal. Now is outside
   window for EtOH withdrawal. Will need monitoring for benzo withdrawal.
   - SW consult  when mental status improves
   #. HLD:
   - Continue Atorvastatin 80mg daily.
    #. GERD:
   - Lansoprazole 30mg daily
   #. Anxiety/Depression:
   - Per psychiatry, appears to be a distant diagnosis.
   - Continue to observe
   ICU Care
   Nutrition: Nectar thick liquids
   Glycemic Control:  Insulin sliding scale and NPH 24/20
   Lines:
   Multi Lumen - [**2182-1-24**] 04:22 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU